US07705027B2
C-[5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(4-fluoro-phenyl)-isoxazol-3-yl]-methylamine
To a solution of 5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(4-fluoro-phenyl)-isoxazole-3-carboxylic acid amide (0.40 g, 0.76 mmol) in anhydrous THF (20 ml) under argon was added 1M Borane-THF complex (1 ml) and the solution refluxed overnight. After cooling the reaction was quenched with methanol (10 ml) and the product purified using a Isolute® SPE Flash SCX-2 5 g to provide 0.30 g (77% yield) as a powder.

reactant | 5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(4-fluoro-phenyl)-isoxazole-3-carboxylic acid amide | 0.76 mmol, 0.40 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=C(C(=NO1)C(=O)N)C1=CC=C(C=C1)F | C30H22ClFN2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | C-[5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(4-fluoro-phenyl)-isoxazol-3-yl]-methylamine | 77% yield | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=C(C(=NO1)CN)C1=CC=C(C=C1)F | C30H24ClFN2O3
